US07432258B2
d) 1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethanone
To a 0° C. solution containing 0.55 g of 2-bromo-1-(4-bromo-3-fluorophenyl)ethanone (1.86 mmols) in 9 mL of THF was added 0.32 mL of morpholine (3.72 mmols). After 18 h the reaction mixture was diluted with 100 mL of dichloromethane and washed with water (1×10 mL) and saturated brine solution (1×10 mL). The organic layer was dried over MgSO4, filtered through a frit, and concentrated to a yellow-orange oil which was used without further purification. MS (ES) m/e 302, 303 [M+H]+.

reactant | 2-bromo-1-(4-bromo-3-fluorophenyl)ethanone | 1.86 mmols, 0.55 g | BrCC(=O)C1=CC(=C(C=C1)Br)F | C8H5Br2FO
reactant | morpholine | 3.72 mmols, 0.32 mL | N1CCOCC1 | C4H9NO
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethanone | BrC1=C(C=C(C=C1)C(CN1CCOCC1)=O)F | C12H13BrFNO2
